US06610707B1
Lawesson's reagent (2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide] (271 mg) was added to a solution of N′2-acetyl-(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarbohydrazide (192 mg) [see Preparation 39] in toluene (10 ml). The reaction mixture was heated under reflux for 3 hours and the cooled mixture was then purified by column chromatography on silica gel eluting with a solvent gradient of 0:100 changing to 30:70 (in 10% increments), by volume, hexane:ethyl acetate, to afford 2-[(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidyl]-5-methyl-1,3,4-thiadiazole (106 mg) as a clear oil.

reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | N′2-acetyl-(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarbohydrazide | 192 mg | C(C)(=O)NNC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)F | C14H18FN3O4S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidyl]-5-methyl-1,3,4-thiadiazole | 106 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C=1SC(=NN1)C | C14H16FN3O2S2
